US06982348B2
3) 2-(4-fluorophenyl)-2-oxo-1-[[4-(trifluoromethyl)phenyl]methyl]ethylamine hydrochloride
To a solution of 2-(4-fluorophenyl)-2-oxo-1-[[4-(trifluoromethyl)phenyl]methyl]ethylformamide (13.87 g, 40.9 mmol) in methanol (100 ml) was added conc. hydrochloric acid (3.8 ml, 45.0 mmol), and the mixture was heated under reflux for 2 hrs. The reaction solution was concentrated under reduced pressure, and the residue was washed with ethyl acetate to give the objective substance.(13.63 g, 96%) as crystals.

reactant | 2-(4-fluorophenyl)-2-oxo-1-[[4-(trifluoromethyl)phenyl]methyl]ethylformamide | 40.9 mmol, 13.87 g | FC1=CC=C(C=C1)C(C(CC1=CC=C(C=C1)C(F)(F)F)NC=O)=O | C17H13F4NO2
reactant | hydrochloric acid | 45.0 mmol, 3.8 ml | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
product | 2-(4-fluorophenyl)-2-oxo-1-[[4-(trifluoromethyl)phenyl]methyl]ethylamine hydrochloride | Cl.FC1=CC=C(C=C1)C(C(CC1=CC=C(C=C1)C(F)(F)F)N)=O | InChI=1S/C16H13F4NO.ClH/c17-13-7-3-11(4-8-13)15(22)14(21)9-10-1-5-12(6-2-10)16(18,19)20;/h1-8,14H,9,21H2;1H
